US06806230B1
11.5 g (60 mmol) of a 28% sodium methoxide solution was dissolved in 100 ml of methanol, and 5.6 g (54 mmol) of formamidine acetate was added, followed by stirring at room temperature for 15 minutes. Then, 11.5 g (54 mmol) of 4-ethoxymethylene-2,6-dimethyl-3,5-heptanedione was added under cooling with ice. The reaction mixture was further reacted at 50° C. for one hour. The solvent was distilled off under reduced pressure, and 200 ml of water was added, followed by extraction with ethyl acetate. The obtained organic layer was washed with water and then dried over anhydrous magnesium sulfate. Ethyl acetate was distilled off under reduced pressure, and the residue was purified by silica gel column chromatography (developing solvent/n-hexane:ethyl acetate=4:1) to obtain 9.2 g (yield: 89%) of 5-isopropylcarbonyl-4-isopropylpyrimidine as slightly yellow liquid.

reactant | sodium methoxide | C[O-].[Na+]
reactant | formamidine acetate | 54 mmol, 5.6 g | C(C)(=O)O.C(=N)N
reactant | 4-ethoxymethylene-2,6-dimethyl-3,5-heptanedione | 54 mmol, 11.5 g | C(C)OC=C(C(C(C)C)=O)C(C(C)C)=O | C12H20O3
solvent | methanol | 100 ml | CO | CH4O
product | 5-isopropylcarbonyl-4-isopropylpyrimidine | 9.2 g, yield: 89% | C(C)(C)C(=O)C=1C(=NC=NC1)C(C)C | C11H16N2O
